US08623859B2
5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-methyl-N-[3-(pyrrolidin-1-ylmethyl)benzyl]-1,3,4-oxadiazole-2-carboxamide
The title compound was prepared according to general procedure BK using methyl 5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-1,3,4-oxadiazole-2-carboxylate (150 mg, 0.41 mmol), methyl-(3-pyrrolidin-1-ylmethyl-benzyl)-amine (99 mg, 0.48 mmol), trimethylaluminium (2 M in toluene, 0.44 mL) and THF (15 mL).

reactant | methyl 5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-1,3,4-oxadiazole-2-carboxylate | 0.41 mmol, 150 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=NN=C(O1)C(=O)OC)C | C15H19N3O6S
reactant | methyl-(3-pyrrolidin-1-ylmethyl-benzyl)-amine | 0.48 mmol, 99 mg | CNCC1=CC(=CC=C1)CN1CCCC1 | C13H20N2
reactant | trimethylaluminium | 2 M, 0.44 mL | C[Al](C)C
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-methyl-N-[3-(pyrrolidin-1-ylmethyl)benzyl]-1,3,4-oxadiazole-2-carboxamide | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=NN=C(O1)C(=O)N(CC1=CC(=CC=C1)CN1CCCC1)C)C | C27H35N5O5S
